US09227918B2
1q: Methyl 4-(5-bromo-2-cyano-1-methoxy-1-oxopentan-2-yl)benzoate
For Step 1, methyl 4-(cyanomethyl)benzoate was substituted for (3,4-Dimethoxyphenyl)acetonitrile and dimethyl carbonate was substituted for 2-bromopropane. For Step 2, sodium hydride was substituted for NaHMDS.

reactant | methyl 4-(cyanomethyl)benzoate | C(#N)CC1=CC=C(C(=O)OC)C=C1 | C10H9NO2
reactant | (3,4-Dimethoxyphenyl)acetonitrile | COC=1C=C(C=CC1OC)CC#N | C10H11NO2
reactant | dimethyl carbonate | C(OC)(OC)=O | C3H6O3
reactant | 2-bromopropane | BrC(C)C | C3H7Br
reactant | sodium hydride | [H-].[Na+]
reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
product | Methyl 4-(5-bromo-2-cyano-1-methoxy-1-oxopentan-2-yl)benzoate | BrCCCC(C(=O)OC)(C#N)C1=CC=C(C(=O)OC)C=C1 | C15H16BrNO4
